US07759369B2
6-[(5-Chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-5-methyl-2-pyridinecarboxamide
A solution of 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-5-methyl-2-pyridinecarbonitrile (127 mg) in 2M sodium hydroxide solution (0.8 ml) and ethanol (4 ml) was stirred under reflux for 2 hours. Solvent was removed in vacuo and water (5 ml) added. The mixture was extracted with ethyl acetate (3×5 ml) and the combined extracts washed with brine (5 ml), dried (MgSO4) and concentrated in vacuo to afford the title compound (107 mg, 81%) as a white solid. LC/MS [MH+]=419/421, RT=3.57 min.

reactant | 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-5-methyl-2-pyridinecarbonitrile | 127 mg | ClC=1C=CC(=C(C1)CC1=C(C=CC(=N1)C#N)C)OCC1=C(C=C(C=C1)Cl)F | C21H15Cl2FN2O
reactant | sodium hydroxide | 2M, 0.8 ml | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 6-[(5-Chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-5-methyl-2-pyridinecarboxamide | 107 mg, 81% | ClC=1C=CC(=C(C1)CC1=C(C=CC(=N1)C(=O)N)C)OCC1=C(C=C(C=C1)Cl)F | C21H17Cl2FN2O2
